US05681838
(3-(Carboxyphenylmethyl)-1-(3-(4-guanidinobenzoylamino)propyl)ureido)acetic acid
380 mg (0.76 mg) of methyl (3-(3-(4-guanidinobenzoylamino)propyl)-2,5-dioxoimidazolidin-1-yl)phenylacetate hydrochloride are dissolved in 10 ml of methanol and 10 ml of water, and 2.28 ml of 1N sodium hydroxide solution are then added. The mixture is stirred at room temperature overnight, concentrated and chromatographed, for purification, on Sephadex LH20 using an homogeneous mixture of butanol/glacial acetic acid/water.

reactant | methyl (3-(3-(4-guanidinobenzoylamino)propyl)-2,5-dioxoimidazolidin-1-yl)phenylacetate hydrochloride | 380 mg | Cl.N(C(=N)N)C1=CC=C(C(=O)NCCCN2C(N(C(C2)=O)C(C(=O)OC)C2=CC=CC=C2)=O)C=C1
reactant | sodium hydroxide | 1N, 2.28 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | (3-(Carboxyphenylmethyl)-1-(3-(4-guanidinobenzoylamino)propyl)ureido)acetic acid | C(=O)(O)C(NC(N(CCCNC(C1=CC=C(C=C1)NC(=N)N)=O)CC(=O)O)=O)C1=CC=CC=C1 | C22H26N6O6
